US08877780B2
TEA (0.28 ml, 2 mmol) was added to a stirred mixture of 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione (0.37 g, 1 mmol) and 4-isocyanato-1,2-dimethoxy-benzene (0.15 ml, 1 mmol) in acetonitrile (10 mL) under nitrogen. The mixture was stirred at ambient temperature for 1 h, during which time it remained a suspension. The reaction was then monitored and determined to be complete. A 3.5% aqueous HCl solution (10 mL) was added, and the mixture stirred for 10 minutes. The solid was isolated by filtration, and the solid was washed with additional 3.5% aq. HCl (20 mL) and acetonitrile (20 mL), yielding the 1-(3,4-Dimethoxy-phenyl)-3-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-urea as a white solid (400 mg, 91%). HPLC: Waters Symmetry C-18, 3.9×150 mm, 5 micro, 1 mL/min, 240 nm, 30/70 CH3CN/0.1% H3PO4 in H2O: tR=2.43 min (97%); mp. 216-218° C. 1H NMR (DMSO-d6) δ 1.79-2.12 (m, 1H, CHH), 2.25-2.47 (m, 1H, CHH), 2.62 (br. s., 1H, CHH), 2.81-3.01 (m, 1H, CHH), 3.69 (d, J=6.0 Hz, 6H, OCH3+OCH3), 4.24-4.53 (m, 4H, CH2+CH2), 5.11 (dd, J=5.0, 13.1 Hz, 1H, CHN), 6.64 (t, J=5.9 Hz, 1H, Ar), 6.82 (s, 2H, Ar), 7.18 (s, 1H, Ar), 7.44 (d, J=7.7 Hz, 1H, Ar), 7.51 (s, 1H, NH), 7.69 (d, J=7.9 Hz, 1H, Ar), 8.46 (s, 1H, NH), 10.98 (s, 1H, NH); 13C NMR (DMSO-d6) δ 22.49, 31.20, 42.77, 47.12, 51.56, 55.28, 55.88, 103.55, 109.60, 112.56, 121.83, 122.91, 126.85, 130.25, 134.15, 142.36, 143.51, 145.03, 148.73, 155.35, 167.95, 170.99, 172.85. LCMS MH=453. Anal Calcd for: C23H24N4O6: C, 61.06; H, 5.35; N, 12.38. found: C, 59.84; H, 4.87; N, 12.13.

reactant | 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione | 1 mmol, 0.37 g | NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O | C14H15N3O3
reactant | 4-isocyanato-1,2-dimethoxy-benzene | 1 mmol, 0.15 ml | N(=C=O)C1=CC(=C(C=C1)OC)OC | C9H9NO3
reactant | HCl | 10 mL | Cl | ClH
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 1-(3,4-Dimethoxy-phenyl)-3-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-urea | 400 mg, 91% | COC=1C=C(C=CC1OC)NC(=O)NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O | C23H24N4O6
